US07767704B2
Ethyl 4-amino-1-(cyclopropylmethyl)-1H-imidazole-2-carboxylate
3.89 g (16.26 mmol) of ethyl 1-(cyclopropylmethyl)-4-nitro-1H-imidazole-2-carboxylate are dissolved in 50 ml of THF, and a spatula tip of Raney nickel is added. The reaction mixture is hydrogenated with hydrogen in the hydrogenation apparatus at room temperature. The catalyst is filtered off and the filtrate is evaporated in vacuo. The residue from evaporation is further used directly for the next reaction.

reactant | ethyl 1-(cyclopropylmethyl)-4-nitro-1H-imidazole-2-carboxylate | 16.26 mmol, 3.89 g | C1(CC1)CN1C(=NC(=C1)[N+](=O)[O-])C(=O)OCC | C10H13N3O4
reactant | hydrogen | [H][H] | H2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | Ethyl 4-amino-1-(cyclopropylmethyl)-1H-imidazole-2-carboxylate | NC=1N=C(N(C1)CC1CC1)C(=O)OCC | C10H15N3O2
